US08877934B2
Step B: 2-Amino-N-furo[3,2-b]pyridin-7-yl-acetamide hydrochloride
Tert-Butyl 2-(furo[2,3-b]pyridin-4-ylamino)-2-oxoethylcarbamate (350 mg, 1.2 mmol) was placed in ethanol (96%) (3.0 ml) and hydrogen chloride in dioxane (5.0 ml, 20.00 mmol) was added after which the resulting mixture was stirred at room temperature over night. The solids were filtered off, washed subsequently with EtOH and diethylether and dried in a stream of air. 230 mg of a white powder was obtained (1.01 mmol, 84%). MS (ESI) m/z=191.9 [M+1]+.

reactant | Tert-Butyl 2-(furo[2,3-b]pyridin-4-ylamino)-2-oxoethylcarbamate | 1.2 mmol, 350 mg | O1C=CC=2C1=NC=CC2NC(CNC(OC(C)(C)C)=O)=O | C14H17N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 20.00 mmol, 5.0 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 2-Amino-N-furo[3,2-b]pyridin-7-yl-acetamide hydrochloride | 230 mg | Cl.NCC(=O)NC1=C2C(=NC=C1)C=CO2 | InChI=1S/C9H9N3O2.ClH/c10-5-8(13)12-7-1-3-11-6-2-4-14-9(6)7;/h1-4H,5,10H2,(H,11,12,13);1H
